US04322428
4,4'-Dimethoxydesyl chloride
One hundred grams (0.37 mole) of anisoin and 45 ml (0.55 mole) of pyridine were placed in a beaker and heated until the anisoin was completely in solution. After cooling the beaker in an ice bath, a solid was formed. This solid was broken up and then 36 ml (0.50 mole) of thionyl chloride was added with stirring, forming a liquid mixture. After 1 hr, 250 ml water was added and the organic materials extracted with ether, washed with water, dried over Na2SO4 and evaporated to afford a crude oil. Most of the oil was taken up in ether and a residual solid was filtered away. Cooling resulted in a yellow-brown solid which was filtered and collected. Recrystallization again from ether yielded 37.9 g (36%) of a solid. The product had a melting point of about 80°-81° C.

reactant | anisoin | 0.37 mole, One hundred grams | C1(=CC=C(OC)C=C1)C(=O)C(O)C1=CC=C(OC)C=C1 | C16H16O4
reactant | pyridine | 0.55 mole, 45 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.50 mole, 36 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 250 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 4,4'-Dimethoxydesyl chloride | 37.9 g, 36% | COC1=CC=C(C=C1)C(=O)C(C1=CC=C(C=C1)OC)Cl | C16H15ClO3
